US09029487B2
Preparation of (3-(3,6-bis(2,4,4-trimethylpentan-2-yl)-9H-carbazol-9-yl)-5-methyl-2-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)boronic acid
The 9-(5-methyl-2-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-3,6-bis(2,4,4-trimethylpentan-2-yl)-9H-carbazole (5.00 g, 8.6 mmol) is dissolved in 50 mL THF in a 250 mL round bottom flask in an ice water bath. n-BuLi (7.0 ml of a 1.6 M solution in hexane, 11.2 mmol) is added dropwise via syringe (soln turns yellow in color) and the brown solution stirred for 3 hours. Triisopropylborate (2.37 mL, 11.2 mmol) is added dropwise via syringe and the solution stirred for one hour, during which time the mixture became turbid and darkened in color. The mixture is quenched with 100 mL ice water. The solution is extracted with 2×100 mL Et2O. The combined organic portions are dried with MgSO4, filtered and rotovapped down to a white solid (5.1 g). This solid is added to 200 mL water and stirred for 1.5 hrs. The mixture is extracted with 150 and 100 mL Et2O. The combined organic extract is dried with MgSO4, filtered and rotovapped down to yield 4.2 g (78% yield) of a white powder. 1H NMR (CDCl3): δ 8.07 (d, JH—H=1.4 Hz, 1H, CBZ), 8.04 (d, JH—H=1.4 Hz, 1H, CBZ), 7.69 (d, JH—H=2.3 Hz, 1H, aryl), 7.42 (dd, JH—H=8.6, 1.8 Hz, 2H, CBZ), 7.40 (dd, JH—H=8.6, 1.7 Hz, 1H, CBZ), 7.37 (d, JH—H=2.3 Hz, 1H, aryl), 7.18 (d, JH—H=8.6 Hz, 1H, CBZ), 6.99 (d, JH—H=8.6 Hz, 1H, CBZ), 6.34 (s, 2H, OH), 3.80 (m, 2H, THP), 2.91 (m, 1H, THP), 2.39 (s, 3H, aryl Me), 1.89 (dd, JH—H=12.8, 4.2 Hz, 2H, tOCT CH2), 1.82 (d, JH—H=14.5 Hz, 2H, tOCT CH2), 1.55 (s, 3H, tOCT CMe2), 1.52 (s, 3H, tOCT CMe2), 1.48 (s, 3H, tOCT CMe2), 1.45 (s, 3H, tOCT CMe2), 0.71 (s, 9H, tOCT tBu), 0.70 (s, 9H, tOCT tBu).

reactant | 9-(5-methyl-2-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-3,6-bis(2,4,4-trimethylpentan-2-yl)-9H-carbazole | 8.6 mmol, 5.00 g | CC=1C=CC(=C(C1)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(C)(CC(C)(C)C)C)C(C)(CC(C)(C)C)C)OC1OCCCC1 | C40H55NO2
reactant | n-BuLi | [Li]CCCC
reactant | Triisopropylborate | 11.2 mmol, 2.37 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (3-(3,6-bis(2,4,4-trimethylpentan-2-yl)-9H-carbazol-9-yl)-5-methyl-2-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)boronic acid | 4.2 g, 78% yield | CC(C)(CC(C)(C)C)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(C)(CC(C)(C)C)C)C=1C(=C(C=C(C1)C)B(O)O)OC1OCCCC1 | C40H56BNO4
